US06287749B1
2-Hydroxy-2-methyl-benzocyclohexan-1-one (compound Id) was prepared by dissolving 2-methyl-benzocyclohexan-1-one (19.7 g, 0.123 mol) in toluene (750 mL) in a 2000 mL three neck flask. Triethyl phosphite (98%, 25 mL, 0.2 mol) and N-[4-(trifluoromethyl)benzyl]-cinchoninium bromide (CPTC, 3.3 g, 6.25 mmol, 5 mol %) and 50% aqueous sodium hydroxide (375 mL) were added into the flask. A Pasteur pipet was installed in one neck and immersed in the solution to serve as an inlet for oxygen. One of the other necks was attached to a condenser which was topped with an outlet opening to air. A mechanical stirrer was used to keep the two phase solution stirring vigorously. Molecular oxygen was bubbled through the reaction mixture and the solution was kept stirring for 24 hours at room temperature. After the reaction, water (400 mL) was added to the mixture. The water layer and toluene layer were separated using a separatory funnel. The aqueous layer was extracted with benzene (100 mL×3). The benzene portion and the toluene portion were combined. The organic layer was washed with 10% hydrochloric acid (350 mL), water and finally with saturated aqueous sodium chloride. The organic layer was dried over sodium sulfate. The organic solvent was removed by a rotary evaporator to give a yellow liquid. The yellow liquid was purified by vacuum distillation. Two fractions corresponding to a boiling range of 110-113° C. at 17 mm Hg (triethyl phosphite) and 135-140° C. at 17 mm Hg (the desired compound) were collected separately. The fraction containing 2-hydroxy-2-methyl-benzocyclohexan-1-one (14.5 g) was obtained in 67% isolated yield. The purity of the product was 100% by GC.

reactant | 2-methyl-benzocyclohexan-1-one | 0.123 mol, 19.7 g | CC1C=CC2=C(CCCC2)C1=O | C11H14O
reactant | Triethyl phosphite | 0.2 mol, 25 mL | P(OCC)(OCC)OCC | C6H15O3P
reactant | N-[4-(trifluoromethyl)benzyl]-cinchoninium bromide | 6.25 mmol, 3.3 g | C=C[C@H]1C[N+]2(CC[C@H]1C[C@@H]2[C@H](C3=CC=NC4=CC=CC=C34)O)CC5=CC=C(C=C5)C(F)(F)F.[Br-]
reactant | sodium hydroxide | 375 mL | [OH-].[Na+]
reactant | oxygen | O=O | O2
solvent | toluene | 750 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Hydroxy-2-methyl-benzocyclohexan-1-one | OC1(C=CC2=C(CCCC2)C1=O)C | C11H14O2
